US05169817
Preparation of (pentamethylcyclopentadienyl) (2,4-dimethyl pentadienyl) chromium (II) [Cr(C5 (CH3)5)(C7H11)]
The preparation of this compound was substantially the same as that described in Example 1 for [Cr(C5 (CH3)5)(C6H9)] except that 2, 4-dimethylpentadienyl potassium was used instead of 2-methyl pentadienyl lithium (as reported in H. Yashda, Y, Ohnuma, M. Yamauchi, H. Tani, and A. Nakamura, Bulletin Chem. Soc. Japan, 1979, 52, 2036).

reactant | (pentamethyl cyclopentadienyl) (2-methyl pentadienyl)chromium (II) | CC1=C(C(=C(C1(C)[Cr]C=C(C=CC)C)C)C)C
reactant | 2, 4-dimethylpentadienyl potassium | CC(=C[K])C=C(C)C
product | (pentamethylcyclopentadienyl) (2,4-dimethyl pentadienyl) chromium (II) | CC1=C(C(=C(C1(C)[Cr]C=C(C=C(C)C)C)C)C)C | InChI=1S/C10H15.C7H11.Cr/c1-6-7(2)9(4)10(5)8(6)3;1-6(2)5-7(3)4;/h1-5H3;1,5H,2-4H3;
